US04742052
A mixture of p-nitrobenzyloxycarbonyloxyacetic acid (300 mg) and 1,1-dichlorodimethyl ether (1 ml) in ethyl acetate (7.5 ml) was refluxed for 5 hours. The reaction mixture was evaporated to give p-nitrobenzyloxycarbonyloxyacetyl chloride, which was then added to a solution of 2-hydroxymethyl-penem-3-carboxylic acid p-nitrobenzyl ester (168 mg) and triethylamine (0.1 ml) in dichlormethane (10 ml) with ice-cooling, followed by stirring for 1 hour. The reaction mixture was treated by the procedure similar to that described in Example 53 to give 2-p-nitrobenzyloxycarbonyloxyacetoxymethyl-penem-3-carboxylic acid p-nitrobenzyl ester.

reactant | p-nitrobenzyloxycarbonyloxyacetic acid | 300 mg | [N+](=O)([O-])C1=CC=C(COC(=O)OCC(=O)O)C=C1 | C10H9NO7
reactant | 1,1-dichlorodimethyl ether | 1 ml | COC(Cl)Cl | C2H4Cl2O
solvent | ethyl acetate | 7.5 ml | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyloxycarbonyloxyacetyl chloride | [N+](=O)([O-])C1=CC=C(COC(=O)OCC(=O)Cl)C=C1 | C10H8ClNO6
